US07402585B2
A mixture of 4-benzyloxy-3-methoxybenzaldehyde (157 g, 649 mmol), sodium acetate (106 g, 1.29 mol), hydroxylamine hydrochloride (90 g, 1.29 mol) and acetic acid (500 ml) was heated at reflux for 21 hours. The solvent was evaporated and ice/water (1000 ml) was added to the residue forming a sticky solid. The mixture was neutralised with aqueous sodium hydroxide solution then extracted with dichloromethane (2×500 ml). The organic solution was washed with 1.0 N sodium hydroxide (100 ml), brine (100 ml) and then dried over magnesium sulphate. Solvent evaporation in vacuo, trituration of the residue with hexane:ethyl acetate (3:1) and collection of the solid by suction filtration yielded 4-benzyloxy-3-methoxybenzonitrile (123 g, 80% yield) as a brown solid:

reactant | 4-benzyloxy-3-methoxybenzaldehyde | 649 mmol, 157 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | sodium acetate | 1.29 mol, 106 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.29 mol, 90 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 4-benzyloxy-3-methoxybenzonitrile | 123 g, 80% yield | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC | C15H13NO2
